US05721185
Preparation of lithium tetrahydrofluorenide
10 g of tetrahydofluorene (59 mmol) was dissolved in 75 ml of pentane. To this solution 21 ml of n-butyl lithium (n-BuLi) (2.65M) was added dropwise over a 20 min period. The solution was stirred overnight with deposition of a white solid. The solid was collected by filtration, washed with pentane and dried under reduced pressure to give 7.14 g (70 percent yield) of product.

reactant | tetrahydofluorene | 59 mmol, 10 g | C1CCCC=2C3=CC=CC=C3CC12 | C13H14
reactant | n-butyl lithium | 2.65M, 21 ml | C(CCC)[Li]
solvent | pentane | 75 ml | CCCCC | C5H12
product | lithium tetrahydrofluorenide | 7.14 g, 70 percent yield | [CH-]1CCCC=2C3=CC=CC=C3CC12.[Li+] | InChI=1S/C13H13.Li/c1-3-7-12-10(5-1)9-11-6-2-4-8-13(11)12;/h1,3,5-7H,2,4,8-9H2;/q-1;+1
